US08138176B2
d1) N-Methoxy-N-methyl-2-(1-trityl-1H-imidazol-4-ylmethoxy)acetamide
A solution of 4.03 mmol of (1-trityl-1H-imidazol-4-ylmethoxy)acetic acid and 4.44 mmol of N,O-dimethylhydroxylamine hydrochloride in 100 ml of dichloromethane is mixed with 20.2 mmol of triethylamine and 4.44 mmol of propanephosphonic acid cyclic anhydride [68957-94-8] (50% in ethyl acetate). The reaction mixture is stirred at room temperature for 3 hours and diluted with dichloromethane. The phases are separated and the organic phase is washed with 1M HCl and brine, dried with sodium sulphate and evaporated. The title compound is obtained as a pale yellowish solid from the residue by flash chromatography (SiO2 60 F). Rf=0.45 (dichloromethane-methanol 95:5); Rt=4.11 (gradient I).

reactant | (1-trityl-1H-imidazol-4-ylmethoxy)acetic acid | 4.03 mmol | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)COCC(=O)O | C25H22N2O3
reactant | N,O-dimethylhydroxylamine hydrochloride | 4.44 mmol | Cl.CNOC
reactant | triethylamine | 20.2 mmol | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-Methoxy-N-methyl-2-(1-trityl-1H-imidazol-4-ylmethoxy)acetamide | CON(C(COCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C | C27H27N3O3
